US05821239
4-[[(4-Thiomorpholinyl)methylene]amino]-3-pyridinol
A mixture prepared from 4-[[(dimethylamino)methylene]amino]-3-pyridinol (5.14 g), thiomorpholine (10.5 ml, distilled from CaH2) and dry toluene (120 ml) was refluxed overnight. The reaction mixture was concentrated, triturated with diethyl ether, adhered to silica (methanol), flash chromatographed (10% methanol/ethyl acetate), and triturated with diethyl ether to yield 6.06 g of product. A 3.5 g sample was recrystallized from methanol, and dried under high vacuum and refluxing isopropanol to yield 2.13 g of crystals, m.p. 197°-198.5° C.

reactant | 4-[[(dimethylamino)methylene]amino]-3-pyridinol | 5.14 g | CN(C)C=NC1=C(C=NC=C1)O | C8H11N3O
reactant | thiomorpholine | 10.5 ml | N1CCSCC1 | C4H9NS
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[[(4-Thiomorpholinyl)methylene]amino]-3-pyridinol | 6.06 g | N1(CCSCC1)C=NC1=C(C=NC=C1)O | C10H13N3OS
